* ============================================================================
* Rev-B candidate vs the failure that broke the as-built board.
*
* As-built failed at R_pack = 500 mOhm with Voc in 11.2 - 11.8 V: sustained
* restart loop, +5V0 stuck at 1.81 V, never booted.
*
* Rev-B predicted safe there, because a window needs BOTH
*     Voc > 11.82 V (UV rising)  AND  Voc - I*R_pack < 10.17 V (UV falling)
* At 500 mOhm / 2.3 A that is Voc > 11.82 and Voc < 11.32 -- impossible.
* Predicted to stay clean to ~700 mOhm and only reopen near 900 mOhm.
*
* PASS = VBIN_PP ~ 0 and V5 at regulation (5.16 V).
* FAIL = VBIN_PP large and V5 stuck low.
* ============================================================================
.lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LTC4368-1.sub
.lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LT3010.lib
.inc models\pdb_devices.lib
.inc ..\models\U21_SCREEN.lib
.inc pdb\pdb_current.lib
.inc osiris\osiris_reva.lib

* The four pack voltages that broke as-built, at its 500 mOhm, then harder
* impedances to find where Rev-B's own limit actually is.
.step param IDX list 1 2 3 4 5 6 7 8
.param RB  = table(IDX, 1,500m, 2,500m, 3,500m, 4,500m, 5,700m, 6,700m, 7,900m, 8,900m)
.param VPK = table(IDX, 1,11.2, 2,11.4, 3,11.6, 4,11.8, 5,11.9, 6,12.3, 7,12.0, 8,12.4)

VBAT VSRC 0 PWL(0 0 50m 14.8 1.0 14.8 1.5 {VPK} 8.0 {VPK})
RBATT VSRC VBIN {RB}

XPDB VBIN PDBOUT PDB3V3 GP GF COMMON FAULTN ALERTN SCL SDA 0 PDB_CURRENT
LCBL PDBOUT NCBL 200n Rser=1m
RCBL NCBL   OSIN 6m
XOS  OSIN NAUX V5 V3 V5PROT VJET 0 OSIRIS_REVA
RAUX NAUX 0 1Meg

.tran 0 8 0 100u
.options method=gear reltol=0.003

* Late, settled window -- disjoint from the ramp
.meas TRAN VBIN_PP  PP  V(VBIN)       FROM 6 TO 8
.meas TRAN OSIN_PP  PP  V(OSIN)       FROM 6 TO 8
.meas TRAN V5_MIN   MIN V(V5)         FROM 6 TO 8
.meas TRAN V5_MAX   MAX V(V5)         FROM 6 TO 8
.meas TRAN V3_AVG   AVG V(V3)         FROM 6 TO 8
.meas TRAN IIN_AVG  AVG ABS(I(RBATT)) FROM 6 TO 8
.meas TRAN IIN_MAX  MAX ABS(I(RBATT)) FROM 6 TO 8
.end
